US08754085B2
2,3-Bis(4-fluorophenyl)-6-methyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine
The title compound was prepared from 6-methylpyridine-2,3-diamine and 1,2-bis(4-fluorophenyl)ethane-1,2-dione analogously to Intermediate E;

reactant | 6-methylpyridine-2,3-diamine | CC1=CC=C(C(=N1)N)N | C6H9N3
reactant | 1,2-bis(4-fluorophenyl)ethane-1,2-dione | FC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)F)=O | C14H8F2O2
product | 2,3-Bis(4-fluorophenyl)-6-methyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine | FC1=CC=C(C=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)F)NC(CC2)C | C20H17F2N3
